US04480118
Synthesis of 2-allyl-5-chloro-2-(1-hydroxy-1-methylethyl)indane
To 150 ml of an anhydrous ether solution of methyl magnesium iodide prepared from 3.23 g of magnesium metal and 19.0 g of methyl iodide, with ice-cooling, was added dropwise a solution of 8.32 g of methyl 2-allyl-5-chloroindane-2-carboxylate in 10 ml of anhydrous ether. The mixture was stirred for 24 hours at room temperature to complete the reaction. The reaction mixture was poured into a mixture of saturated aqueous ammonium chloride solution and ice. After the ether layer was separated, the aqueous layer was extracted twice with ether. The ether layers were combined, washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain 7.56 g of the intended product.

reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | 3.23 g | [Mg] | Mg
reactant | methyl iodide | 19.0 g | CI | CH3I
reactant | methyl 2-allyl-5-chloroindane-2-carboxylate | 8.32 g | C(C=C)C1(CC2=CC=C(C=C2C1)Cl)C(=O)OC | C14H15ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 150 ml | CCOCC | C4H10O
product | 2-allyl-5-chloro-2-(1-hydroxy-1-methylethyl)indane | 7.56 g | C(C=C)C1(CC2=CC=C(C=C2C1)Cl)C(C)(C)O | C15H19ClO
